US04536508
3-[3-(1-piperidinylmethyl)phenoxy]propannitrile
A solution of 3-(1-piperidinylmethyl)phenol (26 g), acrylonitrile (100 ml) and benzyltrimethylammonium hydroxide (40% methanolic solution, 5 ml) was heated at reflux for 40 h. The mixture was evaporated in vacuo, diluted with ether (300 ml) and filtered. The filtrate was washed with 2N sodium hydroxide, water and distilled to give the title compound as a colourless oil (17.5 g) b.p. 170°, 0.07 mm; tlc system B, Rf 0.8.

reactant | 3-(1-piperidinylmethyl)phenol | 26 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | benzyltrimethylammonium hydroxide | 5 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acrylonitrile | 100 ml | C(C=C)#N | C3H3N
product | 3-[3-(1-piperidinylmethyl)phenoxy]propannitrile | 17.5 g | N1(CCCCC1)CC=1C=C(OCCC#N)C=CC1 | C15H20N2O
